US04294839
6 g of 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester and 6 g of KOH in 100 ml of ethanol are stirred at 20°; the mixture is evaporated; the residue is dissolved in water; and the solution is washed with ether, acidified with hydrochloric acid and extracted with CH2Cl2. The phases are separated and the organic phase is dried and evaporated to give 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid. M.p. 152°-153° (from CCl4).

reactant | 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester | 6 g | C(C)OC(C(C)(C1=CC=CC=C1)SC=1SC2=C(N1)C=CC(=C2)OCC)=O | C20H21NO3S2
reactant | KOH | 6 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid | C(C)OC1=CC2=C(N=C(S2)SC(C(=O)O)(C)C2=CC=CC=C2)C=C1 | C18H17NO3S2
